US09055743B2
400 mg (1.18 mmol) of 1,1′,1″-(methanetriyltrisulphanediyl)tribenzene are dissolved in 25 ml of dichloromethane, and the mixture is cooled to −78° C. 1.41 ml (1.41 mmol) of tin(IV) tetrachloride solution (1 M in dichloromethane) and 520 mg (1.18 mmol) of (({6-[bis(phenylsulphanyl)methyl]-cyclohex-1-en-1-yl}oxy)(tert-butyl)dimethylsilane) are added in succession, and the mixture is stirred at −78° C. for 1 h. The reaction mixture is poured into ice-water and extracted with dichloromethane. After washing with water, the organic phase is dried over sodium sulphate and concentrated under reduced pressure. Purification of the residue by column chromatography on silica gel (mobile phase: cyclohexane/ethyl acetate) gives 341 mg of 2,6-bis[bis(phenylsulphanyl)methyl]cyclohexanone.

reactant | tin(IV) tetrachloride | 1.41 mmol, 1 M, 1.41 ml | [Sn](Cl)(Cl)(Cl)Cl
reactant | ({6-[bis(phenylsulphanyl)methyl]-cyclohex-1-en-1-yl}oxy)(tert-butyl)dimethylsilane | 1.18 mmol, 520 mg | C1(=CC=CC=C1)SC(C1CCCC=C1O[Si](C)(C)C(C)(C)C)SC1=CC=CC=C1 | C25H34OS2Si
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | 2,6-bis[bis(phenylsulphanyl)methyl]cyclohexanone | 341 mg | C1(=CC=CC=C1)SC(C1C(C(CCC1)C(SC1=CC=CC=C1)SC1=CC=CC=C1)=O)SC1=CC=CC=C1 | C32H30OS4
